US08686156B2
2-[6-(4-Fluoro-2-pyridin-3-ylthiazol-5-yl)pyridin-2-yl]pyrimidine
0.5 g (1.57 mmol) of 2-[6-(2-pyridin-3-ylthiazol-5-yl)pyridin-2-yl]pyrimidine was dissolved in acetonitrile, 1.16 g (3.15 mmol) of 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane ditetrafluoroborate (Selectfluor™) and 1 g (7.04 mmol) of sodium sulphate were added and the mixture was heated at reflux overnight and, after cooling, filtered through Celite. The filtrate was concentrated and purified by chromatography (cyclohexane/ethyl acetate, then ethyl acetate/methanol).

reactant | 2-[6-(2-pyridin-3-ylthiazol-5-yl)pyridin-2-yl]pyrimidine | 1.57 mmol, 0.5 g | N1=CC(=CC=C1)C=1SC(=CN1)C1=CC=CC(=N1)C1=NC=CC=N1 | C17H11N5S
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane ditetrafluoroborate | 3.15 mmol, 1.16 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | sodium sulphate | 7.04 mmol, 1 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[6-(4-Fluoro-2-pyridin-3-ylthiazol-5-yl)pyridin-2-yl]pyrimidine | FC=1N=C(SC1C1=CC=CC(=N1)C1=NC=CC=N1)C=1C=NC=CC1 | C17H10FN5S
